US04028370
Synthesis of 3-acetyl-2-methoxypyrazolo[1,5-a]pyridine (KC-587)
A mixture of 2-methoxypyrazolo[1,5-a]pyridine (280 mg) acetic anhydride (3 ml) and acetyl chloride (1 ml) was refluxed for 1 hr and the reaction mixture was concentrated under reduced pressure. Water was added to the residue and the solution was made basic with potassium carbonate. The precipitated crystals were collected and washed with water. Recrystallization from n-hexane-ethyl acetate gave colorless needles, mp 158.0°-158.5°. Yield 160 mg.

reactant | 2-methoxypyrazolo[1,5-a]pyridine | 3 ml, 280 mg | COC1=NN2C(C=CC=C2)=C1 | C8H8N2O
reactant | acetyl chloride | 1 ml | C(C)(=O)Cl | C2H3ClO
product | 3-acetyl-2-methoxypyrazolo[1,5-a]pyridine | C(C)(=O)C=1C(=NN2C1C=CC=C2)OC | C10H10N2O2
